*
* Diode Sim Model Produced by Altium Ltd
* Date:  24-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZV85C62
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZV85C62 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 2.4E-05
Vbrk 50 10 62

* Subcircuit models
*+  BV =  3.411
*+  IBV =  5.22E-02
.MODEL DIDEAL D
+(
+	IS =	8.00E-09
+	N =	2.0728
+  TT =  5.00E-09
+  CJO =  30e-12
+  VJ =  0.3905
+  M =  0.218
+)

.MODEL DHIGH D
+(
+  IS =  3558.35034179688
+	N =	2.0728
+	RS =	1.00E-03
+)

.MODEL DRECOMB D
+(
+	IS =	7.54E-06
+	N =	3.9952
+	RS =	1.15E+03
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZV85C62
